US07648983B2
(S)-[4-(5-Bromo-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]thiazin-2-yl]-carbamic Acid Tert-Butyl Ester
To a solution of (S)-4-(5-bromo-2-fluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine hydrochloride in THF (30 mL) and saturated aqueous sodium bicarbonate (15 mL) is added di-t-butyldicarbonate (0.77 g, 3.5 mmoles). After 4 h, the reaction is diluted with water, extracted with ethyl acetate, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel flash column chromatography eluting with a linear gradient of hexane to hexane:ethyl acetate (3:1) to give the title compound (69% yield): MS (m/z): 403, 405 (M+1).

reactant | (S)-4-(5-bromo-2-fluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine hydrochloride | Cl.BrC=1C=CC(=C(C1)[C@]1(N=C(SCC1)N)C)F
reactant | di-t-butyldicarbonate | 3.5 mmoles, 0.77 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (S)-[4-(5-Bromo-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]thiazin-2-yl]-carbamic Acid Tert-Butyl Ester | 69% yield | C(C)(C)(C)OC(NC=1SCC[C@@](N1)(C)C1=C(C=CC(=C1)Br)F)=O | C16H20BrFN2O2S
